US08378107B2
Step 4: [3-(3-{[Ethyl-(3-phenyl-propionyl)-amino]-methyl}-5-methyl-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester
[3-(3-Ethylaminomethyl-5-methyl-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester, trifluoroacetate (0.36 mmol) was reacted with hydrocinnamoyl chloride (0.06 mL, 0.44 mmol) and triethylamine (0.15 mL, 1.09 mmol) in CH2Cl2 to give the title compound.

reactant | [3-(3-Ethylaminomethyl-5-methyl-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC=C(C=C1CNCC)C)=O | C20H26N2O3
reactant | trifluoroacetate | 0.36 mmol | FC(C(=O)[O-])(F)F
reactant | hydrocinnamoyl chloride | 0.44 mmol, 0.06 mL | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | triethylamine | 1.09 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [3-(3-{[Ethyl-(3-phenyl-propionyl)-amino]-methyl}-5-methyl-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC=C(C=C1CN(C(CCC1=CC=CC=C1)=O)CC)C)=O | C29H34N2O4
